US07105671B2
2-Aminothiazole (259 mg, 2.58 mmol) and 2-(4-methanesulfonyl-phenyl)-3-[3-(tetrahydropyran-2-yloxy)-cyclopentyl]-propionic acid methyl ester (1.06 g, 2.58 mmol) were treated with a solution of magnesium methoxide in methanol (7.4 wt. %, 14.76 mL, 10.32 mmol). The reaction mixture was then concentrated in vacuo to approximately one-half the volume of methanol. The resulting reaction mixture was heated under reflux for 24 h. The reaction mixture was allowed to cool to 25° C. and then filtered through a pad of celite. The pad of celite was washed well with ethyl acetate until the washings indicated the absence of product by thin layer chromatography. The filtrate was then washed with a saturated aqueous sodium chloride solution, dried over magnesium sulfate, filtered, and concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230–400 mesh, 1/2 hexanes/ethyl acetate) afforded 2-(4-methanesulfonyl-phenyl)-3-[3-(tetrahydropyran-2-yloxy)-cyclopentyl]-N-thiazol-2-yl-propionamide (494 mg, 40%) as a yellow foam: mp 68–70° C. (foam to gel); FAB-HRMS m/e calcd for C23H30N2O5S2 (M+H)+ 479.1674, found 479.1666.

reactant | 2-Aminothiazole | 2.58 mmol, 259 mg | NC=1SC=CN1 | C3H4N2S
reactant | 2-(4-methanesulfonyl-phenyl)-3-[3-(tetrahydropyran-2-yloxy)-cyclopentyl]-propionic acid methyl ester | 2.58 mmol, 1.06 g | COC(C(CC1CC(CC1)OC1OCCCC1)C1=CC=C(C=C1)S(=O)(=O)C)=O | C21H30O6S
reactant | magnesium methoxide | C[O-].[Mg+2].C[O-]
reactant | methanol | 10.32 mmol, 14.76 mL | CO | CH4O
product | 2-(4-methanesulfonyl-phenyl)-3-[3-(tetrahydropyran-2-yloxy)-cyclopentyl]-N-thiazol-2-yl-propionamide | 494 mg, 40% | CS(=O)(=O)C1=CC=C(C=C1)C(C(=O)NC=1SC=CN1)CC1CC(CC1)OC1OCCCC1 | C23H30N2O5S2
